US07498325B2
b) (R)-1-[3-(3,5-dibromo-4-hydroxyphenyl)-2-(N-methylamino)-propyl]-4-(1-piperidinyl)-piperidine
To a suspension of 2.3 g (60 mmol) lithium aluminium hydride in 100 ml anhydrous tetrahydrofuran, a solution of 11.0 g (18.66 mmol) 1-[3,5-dibromo-N-(1,1-dimethylethoxycarbonyl)-D-tyrosyl]-4-(1-piperidinyl)piperidine in 100 ml anhydrous tetrahydrofuran was added dropwise at room temperature whilst being stirred. It was stirred for a further 15 minutes at room temperature and then refluxed for 3 hours. 3 ml 20% aqueous ammonium chloride solution was added to the cooled mixture, then it was dried with magnesium sulphate. The filter cake was filtered and washed with 300 ml of an ethyl ethanoate-methanol mixture (1/1 v/v), and the combined filtrates were evaporated in a vacuum. The residue was purified by column chromatography over silica gel using ethyl ethanoate/methanol (8/2 v/v) for elution.

reactant | lithium aluminium hydride | 60 mmol, 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[3,5-dibromo-N-(1,1-dimethylethoxycarbonyl)-D-tyrosyl]-4-(1-piperidinyl)piperidine | 18.66 mmol, 11.0 g | BrC=1C=C(C[C@@H](NC(=O)OC(C)(C)C)C(=O)N2CCC(CC2)N2CCCCC2)C=C(C1O)Br | C24H35Br2N3O4
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-1-[3-(3,5-dibromo-4-hydroxyphenyl)-2-(N-methylamino)-propyl]-4-(1-piperidinyl)-piperidine | BrC=1C=C(C=C(C1O)Br)C[C@H](CN1CCC(CC1)N1CCCCC1)NC | C20H31Br2N3O
